US07384934B2
6,7-Difluoro-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride
Suspend 2-(4,5-difluoro-2-nitro-phenylamino)-thiophene-3-carbonitrile (4.02 g, 14.30 mmol) in ethanol (40.0 ml). Dissolve tin(H) chloride (8.14 g, 42.91 mmol) in 5N HCl (40.0 ml) and then add it to the suspension. Heat the reaction at reflux for 5.5 hours and then cool it to ambient temperature. Cool the mixture for 16 hours in a refrigerator. Collect the resulting precipitate by vacuum filtration and then dry it by pulling a vacuum on it to give 3.53 g (86%) of the title compound as a yellow solid: mass spectrum (ion spray): m/z =252.1 (M+1).

reactant | 2-(4,5-difluoro-2-nitro-phenylamino)-thiophene-3-carbonitrile | 14.30 mmol, 4.02 g | FC1=CC(=C(C=C1F)NC=1SC=CC1C#N)[N+](=O)[O-] | C11H5F2N3O2S
reactant | HCl | 5N, 40.0 ml | Cl | ClH
solvent | ethanol | 40.0 ml | C(C)O | C2H6O
product | 6,7-Difluoro-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 3.53 g, 86% | Cl.FC=1C(=CC2=C(NC=3SC=CC3C(=N2)N)C1)F | InChI=1S/C11H7F2N3S.ClH/c12-6-3-8-9(4-7(6)13)16-11-5(1-2-17-11)10(14)15-8;/h1-4,16H,(H2,14,15);1H
